US04082850
Reaction of ethyl 4-(2-chloro-6-ethoxycarbonylbenzyloxy)phenylacetate with potassium hydroxide as described in Example 1c provides 4-(6-carboxy-2-chlorobenzyloxy)phenylacetic acid as a colorless solid, mp 171°-173° C.

reactant | ethyl 4-(2-chloro-6-ethoxycarbonylbenzyloxy)phenylacetate | ClC1=C(COC2=CC=C(C=C2)CC(=O)OCC)C(=CC=C1)C(=O)OCC | C20H21ClO5
reactant | potassium hydroxide | [OH-].[K+]
product | 4-(6-carboxy-2-chlorobenzyloxy)phenylacetic acid | C(=O)(O)C1=CC=CC(=C1COC1=CC=C(C=C1)CC(=O)O)Cl | C16H13ClO5
